Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm 
/ diazepam
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ morbid obesity, polyneuropathy requiring serial 
plasmepheresis, s/p C sectionx2 and hysterectomy, multiple SBO 
managed conservatively who presents with abdominal pain, nausea
and vomiting. Patient was discharged yesterday after receiving 
plasmapheresis for several days due to demyelinating disease. 
She was doing well at the time of discharge. At around ___
yesterday she developed acute onset abdominal pain associated 
with nausea and 7 episodes of non bilious vomiting. This is 
similar, yet more severe,than her prior episode of partial small 
bowel obstruction.  She has been passing flatus and has several 
bowel movements. She otherwise denies fever/chills. In ED she 
continues to be afebrile, non toxic looking with stable vital 
sings. 
 
Past Medical History:
Severe idiopathic axonal sensorimotor polyneuropathy with
symptoms beginning in the late ___ or early ___. Symptoms began
with weakness and sensory loss in the legs proximally. Symptoms
have been responsive to plasmapheresis approximately yearly. As
noted above, she is wheelchair bound.
TREATMENT HISTORY:
___ Weakness and sensory loss in legs, torso and arms
___ Visit with Dr. ___
___ Sural nerve biopsy
Pathology: marked loss of large and small myelinated axons 
___ - ___ IVIG
___ Worse symptoms with dysarthria, hypophonia, and dsypahgia 
___ Plasmapheresis, had coronary vasospasm, bradycardia and 
one episode of bilateral shoulder pain
___ line infection
___ Plasmapheresis, nausea, vomiting
___ Plasmapheresis, transient nausea and emesis
___ Plasmaexchange
___ Had abdominal pain, procedure postponed
___ - ___ Plasma exchange x4
___ Plasma exchange #1

Vitamin B12 deficiency
History of partial small-bowel obstruction
Diabetes, not on any medications at present
Hypertension
GERD
Depression
Diverticulosis
Coronary vasospasm
Status post C-section x 2
Status post hysterectomy for leiomyomata
Left breast lumpectomy
Status post bilateral knee replacements
History of abdominal hematoma due to subcutaneous heparin

 
Social History:
___
Family History:
Mother, brother with diabetes. Mother with liver, cervix, and
colon cancer, as well as CAD; father with lung cancer.

 
Physical Exam:
Admission Physical Exam:
Vitals: T 96.7, HR 82, BP 135/73, RR 16, sat 99%/RA
GEN: A&Ox3, appears comfortable, non toxic looking
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, 
PULM: Clear to auscultation b/l, no labored breathing
ABD: obese, Soft, moderately distended, TTP at R lower abdomen,
no rebound or guarding, non peritoneal 
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical exam:
VS: 98.8, 64, 120/43, 18, 99 RA
Gen: Awake alert, sitting up in bed. Pleasant and interactive.
HEENT: No deformity. PERRL, EOMI. Neck supple, trachea midline.
CV: RRR
Resp: Clear to auscultation bilaterally.
Abd: Obese, soft, non-tender. Active bowel sounds.
Extremities: Obese, warms and dry. 2+ ___ pulses.
Neuro: A&Ox3. Follows commands and moves all extremities equal 
and strong. Speech is clear and fluent. 
 
Pertinent Results:
___ 06:10AM BLOOD WBC-7.6 RBC-4.36 Hgb-13.6 Hct-41.4 MCV-95 
MCH-31.2 MCHC-32.9 RDW-16.3* RDWSD-57.1* Plt ___
___ 06:27AM BLOOD WBC-8.8 RBC-4.47 Hgb-14.2 Hct-41.7 MCV-93 
MCH-31.8 MCHC-34.1 RDW-16.3* RDWSD-54.5* Plt ___
___ 08:40AM BLOOD WBC-6.5 RBC-4.29 Hgb-13.2 Hct-39.7 MCV-93 
MCH-30.8 MCHC-33.2 RDW-16.2* RDWSD-54.7* Plt ___
___ 06:10AM BLOOD ___ PTT-23.9* ___
___ 02:45AM BLOOD ___ PTT-27.6 ___
___ 06:10AM BLOOD Glucose-101* UreaN-11 Creat-0.8 Na-143 
K-4.0 Cl-106 HCO3-27 AnGap-14
___ 02:45AM BLOOD Glucose-158* UreaN-15 Creat-1.0 Na-138 
K-8.0* Cl-103 HCO3-25 AnGap-18
___ 08:40AM BLOOD Glucose-90 UreaN-15 Creat-0.8 Na-139 
K-4.2 Cl-106 HCO3-23 AnGap-14
___ 06:10AM BLOOD Calcium-9.4 Phos-3.4 Mg-1.9
___ 08:40AM BLOOD Calcium-9.2 Phos-3.5 Mg-1.8
___ 03:02AM BLOOD Lactate-1.3 K-4.4

___ CT Ab/Pelvis
1. Partial or early small bowel obstruction, with a transition 
point in the
left abdomen.  No evidence of ischemia or perforation.
2. 2.7 x 2.4 cm right adrenal nodule, stable from ___.
 
Brief Hospital Course:
Ms. ___ is a ___ yo F admitted to the Acute Care Surgery service 
with abdominal pain, nausea and vomiting. She has a past medical 
history significant for idiopathic axonal sensorimotor 
polyneuropathy requiring plasmapheresis, diverticulitis, 
hysterectomy, and diabetes. She had a CT scan that showed a 
small bowel obstruction with transition point in the left upper 
quadrant. She was made NPO, given IV fluids and admitted the 
floor hemodynamically stable for further management.

On HD1 she had flatus and a bowel movement. Her diet was 
advanced sequentially to regular with good tolerability. The 
patient voided without problem. During this hospitalization, the 
patient ambulated early and frequently, was adherent with 
respiratory toilet and incentive spirometry, and actively 
participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, having bowel movements, ambulating, voiding without 
assistance, and pain was well controlled.  The patient was 
discharged home without services. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Bisacodyl 10 mg PO DAILY:PRN constipation 
5. BuPROPion 150 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 100 mg PO BID 
8. Lactulose 15 mL PO Q8H:PRN constipation 
9. LORazepam 0.5 mg PO QHS:PRN insomani 
10. Ondansetron 4 mg PO Q8H:PRN nausea 
11. Polyethylene Glycol 17 g PO BID 
12. Sertraline 75 mg PO DAILY 
13. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
14. Miconazole Powder 2% 1 Appl TP TID:PRN skin irritation 

 
Discharge Medications:
1. amLODIPine 2.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Bisacodyl 10 mg PO DAILY:PRN constipation 
5. BuPROPion 150 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 100 mg PO BID 
8. Lactulose 15 mL PO Q8H:PRN constipation 
9. LORazepam 0.5 mg PO QHS:PRN insomani 
10. Miconazole Powder 2% 1 Appl TP TID:PRN skin irritation 
11. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
12. Polyethylene Glycol 17 g PO BID 
13. Sertraline 75 mg PO DAILY 
14. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Partial small bowel obstruction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care surgery service with 
abdominal pain, nausea, and vomiting. You had a CT scan that 
showed a small bowel obstruction. You were given IVF and managed 
non-operatively. You are now tolerating a regular diet and 
having bowel function. You are now ready to be discharged home 
to continue your recovery.

Please note the following discharge instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 
Followup Instructions:
___